US05958924
7.1. Methyl 6-cyano-1-methyl-2-oxo-1,2-dihydro-4-quinolineacetate
1.1 ml of trimethylsilyl cyanide (8.4 mmol) followed by 0.15 g (0.13 mmol) of tetrakistriphenylphosphinepalladium are added to a solution of 0.50 g (1.4 mmol) of methyl 6-iodo-1-methyl-2-oxo-1,2-dihydro-4-quinolineacetate (prepared from N-methyl-4-iodoaniline according to the method described in Example 1) in 6 ml of anhydrous triethylamine. The reaction medium is then heated to reflux for 4 hours under a nitrogen atmosphere. After cooling to room temperature, the medium is poured into 60 ml of toluene and 60 ml of water. The organic phase is washed with water and the initial aqueous phase is re-extracted with dichloromethane. The organic phases are combined, dried over sodium sulphate and concentrated under vacuum. The residue is purified by flash chromatography on silica, eluting with a methanol/dichloromethane (5:95) mixture.

reactant | trimethylsilyl cyanide | 8.4 mmol, 1.1 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | methyl 6-iodo-1-methyl-2-oxo-1,2-dihydro-4-quinolineacetate | 1.4 mmol, 0.50 g | IC=1C=C2C(=CC(N(C2=CC1)C)=O)CC(=O)OC | C13H12INO3
reactant | N-methyl-4-iodoaniline | CNC1=CC=C(C=C1)I | C7H8IN
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
catalyst | tetrakistriphenylphosphinepalladium | 0.13 mmol, 0.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 60 ml | O | H2O
product | Methyl 6-cyano-1-methyl-2-oxo-1,2-dihydro-4-quinolineacetate | C(#N)C=1C=C2C(=CC(N(C2=CC1)C)=O)CC(=O)OC | C14H12N2O3
